US08247408B2
8-Ethyl-2-(4-hydroxyphenylamino)-4-methyl-6-phenylpyrido[2,3-]pyrimidin-7(8H)-one (70 mg, 0.188 mmol) from above, 1-(2-chloroethyl)piperidine hydrochloride (245.0 mg, 1.331 mmol) and K2CO3 (450.0 mg, 3.261 mmol) were added to DMF (5 mL). The reaction was heated to reflux for ten minutes then cooled to room temperature and partitioned between aqueous and organic layers with ethyl acetate and H2O. The organic layer was dried with anhydrous magnesium sulfate, filtered and evaporated. The residue was directly applied to prep-LC to provide 8-Ethyl-4-methyl-6-phenyl-2-({4-[(2-piperidin-1-ylethyl)oxy]phenyl}amino)pyrido[2,3-d]pyrimidin-7(8H)-one (17.0 mg, 77% yield): 1H NMR (400 MHz, DMSO-d6): δ 10.00 (bs, 1H), 8.10 (s, 1H), 7.70 (m, 4H), 7.40 (m, 3H), 6.95 (d, 2H), 4.40 (q, 2H), 4.10 (bs, 2H), 3.40 (bs, 6H), 2.60 (s, 3H), 1.60 (bs, 4H), 1.40 (bs, 2H), 1.23 (t, 3H); MS (EI) for C29H33N5O2: 484.1 (MH+).

reactant | 8-Ethyl-2-(4-hydroxyphenylamino)-4-methyl-6-phenylpyrido[2,3-]pyrimidin-7(8H)-one | 0.188 mmol, 70 mg | C(C)C1C(C(=NC=2C(=NC(=NC21)NC2=CC=C(C=C2)O)C)C2=CC=CC=C2)=O | C22H20N4O2
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 1.331 mmol, 245.0 mg | Cl.ClCCN1CCCCC1
reactant | K2CO3 | 3.261 mmol, 450.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-Ethyl-4-methyl-6-phenyl-2-({4-[(2-piperidin-1-ylethyl)oxy]phenyl}amino)pyrido[2,3-d]pyrimidin-7(8H)-one | 17.0 mg, 77% yield | C(C)N1C(C(=CC2=C1N=C(N=C2C)NC2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=CC=C2)=O | C29H33N5O2
